US07501428B2
Similar procedure as described in example 1d was used, starting from 2-methylsulfanyl-5-quinazolin-6-ylmethylene-thiazol-4-one, thiazol-2-ylamine and DIEA to give 5-[1-quinazolin-6-yl-meth-(Z)-ylidene]-2-(thiazol-2-ylamino)-thiazol-4-one: LC-MS m/e observed. LC-MS m/e 340 (MH+).

reactant | 2-methylsulfanyl-5-quinazolin-6-ylmethylene-thiazol-4-one | CSC=1SC(C(N1)=O)=CC=1C=C2C=NC=NC2=CC1 | C13H9N3OS2
reactant | thiazol-2-ylamine | S1C(=NC=C1)N | C3H4N2S
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 5-[1-quinazolin-6-yl-meth-(Z)-ylidene]-2-(thiazol-2-ylamino)-thiazol-4-one | N1=CN=CC2=CC(=CC=C12)\C=C/1\C(N=C(S1)NC=1SC=CN1)=O | C15H9N5OS2
